US05840975
2,3,5,6-Tetrafluorobenzoyl chloride
268 g of 2,3,5,6-tetrafluorobenzotrichloride were placed in a 0.5 1 four necked flask. After addition of 5.4 g of iron(III) chloride, the mixture was heated to 60° C. with stirring. 46 g of formic acid were metered in over 6 hours at 60°-65° C. Vigorous gas development (carbon monoxide, hydrogen chloride) began immediately. The gas stream was fed to an absorption tower via a cooler. After addition was complete, the mixture was further stirred for two more hours at 60° C. The product was then distilled under reduced pressure.

reactant | 2,3,5,6-tetrafluorobenzotrichloride | 268 g | FC1=C(C(=C(C=C1F)F)F)C(Cl)(Cl)Cl | C7HCl3F4
reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen chloride | Cl | ClH
catalyst | iron(III) chloride | 5.4 g | [Fe](Cl)(Cl)Cl
solvent | formic acid | 46 g | C(=O)O | CH2O2
product | 2,3,5,6-Tetrafluorobenzoyl chloride | FC1=C(C(=O)Cl)C(=C(C=C1F)F)F | C7HClF4O
